US06235778B1
f) 3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyguanidine
A solution of 3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyamine (74 mg, 0.20 mmol, prepared in the preceding step) and 1H-pyrazole-1-carboxamidine hydrochloride (60 mg, 0.41 mmol) in anhydrous N,N-dimethylformamide (2 mL) was stirred at ambient temperature overnight. Additional 1H-pyrazole-1-carboxamidine hydrochloride (30 mg, 0.20 mmol) was added, and the reaction was stirred at ambient temperature for 3 days. N,N-Dimethylformamide was removed in vacuo, then the residue was treated with acetonitrile. The mixture was filtered to remove excess 1H-pyrazole-1-carboxamidine hydrochloride, and the filtrate was concentrated in vacuo. The residual oil was partitioned between diethyl ether (10 mL) and water (10 mL). The aqueous layer was washed with diethyl ether (2×10 mL), adjusted to pH 8 with 2N NaOH, and extracted with ethyl acetate (2×10 mL). The ethyl acetate extracts were washed with pH 7 buffer (2×15 mL) and brine (15 mL), dried over Na2SO4, filtered, and evaporated to give the title compound (64 mg, 78%) as a colorless oil. 1H-NMR (300 MHz, DMSO-d6) δ7.76 (ddd, 1H, J=8.4, 7.4, 1.8 Hz), 7.69 (dd, 1H, J=7.9, 1.6 Hz), 7.37 (d, 1H, J=7.7 Hz), 7.09 (dt, 1H, J=7.9, 1.0 Hz), 6.69 (s, 1H), 6.47 (s, 1H), 6.33 (t, 1H, J=2.1 Hz), 4.00 (s, 3H), 3.92 (t, 2H, J=6.5 Hz), 3.70 (t, 2H, J=6.1 Hz), 2.20 (s, 3H), 1.88 (pentet, 2H, J=6.3 Hz). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C18H23N3O6S: 410.1 (M+H), 432.1 (M+Na). Found: 410.1, 432.6.

reactant | 3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyamine | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C | C17H21NO6S
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.41 mmol, 60 mg | Cl.N1(N=CC=C1)C(=N)N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.20 mmol, 30 mg | Cl.N1(N=CC=C1)C(=N)N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyguanidine | 64 mg, 78% | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCONC(=N)N)C=C(C1)C | C18H23N3O6S
